US09085583B2
To a solution of tert-butyl 2-methyl-1-(1-oxopropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (100 mg, 0.35 mmol) in dry THF (2 ml) was added a solution of TMS-CF3 (0.02 ml, 1M in THF) and the reaction mixture was cooled to 0° C. under Ar, Added TBAF (73.97 mg, 0.52 mmol), via drop-wise addition and stirred for 30 min at 0° C. A solution of saturated NH4Cl was added and most of the solvent was stripped on the ratary evaporator. The reminder was taken up EtOAc and H2O and transferred to a separatory funnel. The mixture was shaken and the organic layer was separated, dried over Na2SO4, and evaporated under reduced pressure to give tert-butyl 2-methyl-1-(4,4,4-trifluoro-3-hydroxybutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a white crystal (40 mg, yield 32%).

reactant | tert-butyl 2-methyl-1-(1-oxopropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.35 mmol, 100 mg | CC1=C(C=2C(=NC=CC2)N1C(C=O)C)C(=O)OC(C)(C)C | C16H20N2O3
reactant | TMS-CF3 | 1M, 0.02 ml | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | TBAF | 0.52 mmol, 73.97 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-methyl-1-(4,4,4-trifluoro-3-hydroxybutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 40 mg, yield 32% | CC1=C(C=2C(=NC=CC2)N1C(C)C(C(F)(F)F)O)C(=O)OC(C)(C)C | C17H21F3N2O3
